US04041156
A suspension of 2.00 g of N2 -(5-methoxy-1-naphthalenesulfonyl)-L-arginine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry diethyl ether resulted in a precipitate which was collected by filtration and washed several times with dry diethyl ether to give N2 -(5-methoxy-1-naphthalenesulfonyl)-L-arginyl chloride hydrochloride.

reactant | N2 (5-methoxy-1-naphthalenesulfonyl)-L-arginine | 2.00 g | N#N.COC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (5-methoxy-1-naphthalenesulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C17H21ClN4O4S.ClH.N2/c1-26-14-8-2-6-12-11(14)5-3-9-15(12)27(24,25)22-13(16(18)23)7-4-10-21-17(19)20;;1-2/h2-3,5-6,8-9,13,22H,4,7,10H2,1H3,(H4,19,20,21);1H;/t13-;;/m0../s1
